*  
* Diode Model Produced by Altium Ltd  
* Date:  11-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-A27C  
*  
* Parameters derived from information available in data sheet.  
* 
*                 1E/2E anode  
*                 |  1M/2M anode  
*                 |  |  1L/2L anode
*                 |  |  |  1K/2K anode
*                 |  |  |  |  1J/2J anode
*                 |  |  |  |  |  1D/2D anode
*                 |  |  |  |  |  |  DP1 anode
*                 |  |  |  |  |  |  |  1C/2C anode
*                 |  |  |  |  |  |  |  |  1B/2B anode
*                 |  |  |  |  |  |  |  |  |  DIGIT No. 2 Common cathode
*                 |  |  |  |  |  |  |  |  |  |  1A/2A anode
*                 |  |  |  |  |  |  |  |  |  |  |  1N/2N anode
*                 |  |  |  |  |  |  |  |  |  |  |  |  1H/2H anode
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  1G/2G anode
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  DIGIT No. 1 Common cathode
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  1P/2P anode
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  1F/2F anode
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_A27C 1  2  4  5  6  7  8  9  10 11 12 13 14 15 16 17 18

DA1  12  16  dHDSP_A27C
DB1  10  16  dHDSP_A27C
DC1   9  16  dHDSP_A27C
DD1   7  16  dHDSP_A27C
DE1   1  16  dHDSP_A27C
DF1  18  16  dHDSP_A27C
DG1  15  16  dHDSP_A27C
DH1  14  16  dHDSP_A27C
DJ1   6  16  dHDSP_A27C
DK1   5  16  dHDSP_A27C
DL1   4  16  dHDSP_A27C
DM1   2  16  dHDSP_A27C
DN1  13  16  dHDSP_A27C
DP1  17  16  dHDSP_A27C
DDP1  8  16  dHDSP_A27C

DA2  12  11  dHDSP_A27C
DB2  10  11  dHDSP_A27C
DC2   9  11  dHDSP_A27C
DD2   7  11  dHDSP_A27C
DE2   1  11  dHDSP_A27C
DF2  18  11  dHDSP_A27C
DG2  15  11  dHDSP_A27C
DH2  14  11  dHDSP_A27C
DJ2   6  11  dHDSP_A27C
DK2   5  11  dHDSP_A27C
DL2   4  11  dHDSP_A27C
DM2   2  11  dHDSP_A27C
DN2  13  11  dHDSP_A27C
DP2  17  11  dHDSP_A27C
DDP2  8  11  dHDSP_A27C

.MODEL dHDSP_A27C D
+ (  
+    IS = 2.34165185E-18 
+     N = 1.64080796 
+    RS = 5.35791037 
+    BV = 4.5
+   IBV = 100u
+ )  

.ENDS HDSP_A27C